US07939528B2
A mixture of 5-{[4-(1,3-dioxolan-2-yl)phenyl]oxy}-2,7-bis(trifluoromethyl)-1H-benzimidazole (0.260 g, 0.622 mmol) and MP-TSOH (Argonaut, macroporous polymer supported tosic acid, approximately 0.842 g, 1.24 mmol) in acetone (2 mL) was stirred for 3 h, then filtered and concentrated to give the desired 4-{[2,4-bis(trifluoromethyl)-1H-benzimidazol-6-yl]oxy}benzaldehyde which was used without further purification.

reactant | 5-{[4-(1,3-dioxolan-2-yl)phenyl]oxy}-2,7-bis(trifluoromethyl)-1H-benzimidazole | 0.622 mmol, 0.260 g | O1C(OCC1)C1=CC=C(C=C1)OC1=CC2=C(NC(=N2)C(F)(F)F)C(=C1)C(F)(F)F | C18H12F6N2O3
reactant | tosic acid | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | acetone | 2 mL | CC(=O)C | C3H6O
product | 4-{[2,4-bis(trifluoromethyl)-1H-benzimidazol-6-yl]oxy}benzaldehyde | FC(C1=NC2=C(N1)C=C(C=C2C(F)(F)F)OC2=CC=C(C=O)C=C2)(F)F | C16H8F6N2O2
